US04965270
To a solution of (R)-1,4-dibenzyloxy-2-hydroxybutane (8 g, 28 mmol) in dry tetrahydrofuran (150 ml) was added triphenylphosphine (11 g, 42 mmol) and N-hydroxyphthalimide (6.8 g, 42 mmol). The solution was treated dropwise with diethyl azodicarboxylate (6.6 ml, 42 mmol). A dark red colouration appeared, gradually fading and the solution became warm. The solution was stirred at room temperature for 16 hours, then treated with additional triphenyl phosphine (2.25 g, 8.5 mmol) N-hydroxyphthalimide (1.35 g, 8.5 mmol) and diethyl azodicarboxylate (1.35 ml, 8.5 mmol). After stirring for an additional 24 hours at room temperature, the solvent was removed under reduced pressure and the residue dissolved in ethyl acetate-hexane 1:1 (100 ml) and refrigerated. A white solid crystallised out and was filtered off. The solution was evaporated to dryness and the residue dissolved in ethyl acetate-hexane 1:1 (50 ml) and refrigerated. After filtration, the filtrate was evaporated to dryness and the residue chromatographed on silica, eluting with ethyl acetate-hexane 1:2 to give (S)-N-(1,4-dibenzyloxybut-2-oxy)phthalimide (11 g, (91%), [α]25 -17.4° (c 0.8 in ethanol); IR: υmax

reactant | (R)-1,4-dibenzyloxy-2-hydroxybutane | 28 mmol, 8 g | C(C1=CC=CC=C1)OC[C@@H](CCOCC1=CC=CC=C1)O | C18H22O3
reactant | triphenylphosphine | 42 mmol, 11 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-hydroxyphthalimide | 42 mmol, 6.8 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | diethyl azodicarboxylate | 42 mmol, 6.6 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenyl phosphine | 8.5 mmol, 2.25 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 8.5 mmol, 1.35 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | (S)-N-(1,4-dibenzyloxybut-2-oxy)phthalimide | C(C1=CC=CC=C1)OC[C@H](CCOCC1=CC=CC=C1)ON1C(C=2C(C1=O)=CC=CC2)=O | C26H25NO5
